US04489003
3.0 g (5.5 mmol) of tert.butyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 20 ml (250 mmol) of hydroxymethyl-cyclopropane and 0.7 g (3 mmol) of tetraethyl orthotitanate are stirred at 120° overnight, the solution is evaporated to dryness, the residue is taken up in chloroform and stirred for 0.5 hour with 30 ml of a saturated potassium fluoride solution. The resulting emulsion is filtered through siliceous earth, the organic phase is separated, washed with water, dried over magnesium sulphate and evaporated. By recrystallization from ethyl acetate there is obtained cyclopropylmethyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate of melting point 190°-191°.

reactant | tert.butyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 5.5 mmol, 3.0 g | IC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CC1)=O | C18H18IN3O3
reactant | hydroxymethyl-cyclopropane | 250 mmol, 20 ml | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 3 mmol, 0.7 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclopropylmethyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | IC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3CC3)CC1)=O | C18H16IN3O3
